US04775674
Sodium (0.9 g, 0.04 g atom) was dissolved in ethanol (150 mL) and diethyl 2,4-dioxoimidazolidine-5-phosphonate (9.19 g, 40 mmol) added. After 30 minutes solid 5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrobenzaldehyde (10.0 g, 32 mmol) was added and the mixture stirred vigorously. After 30 minutes, the mixture was diluted with water (150 mL) filtered and the solid washed with water and air dried to give 5-[[5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione (9.80 g, 77%). An analytical sample was prepared by crystallization from dimethylformamide and wate and had an m.p. 285°-287° C. (dec.).

reactant | Sodium | 0.9 g | [Na] | Na
reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | 40 mmol, 9.19 g | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
reactant | 5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrobenzaldehyde | 32 mmol, 10.0 g | CC(C)N1C(OC(C1)COC=1C=CC(=C(C=O)C1)[N+](=O)[O-])=O | C14H16N2O6
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | 5-[[5-[[[3-(1-methylethyl)-2-oxooxazolidin-5-yl]methyl]oxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione | 9.80 g, 77% | CC(C)N1C(OC(C1)COC=1C=CC(=C(C1)C=C1C(NC(N1)=O)=O)[N+](=O)[O-])=O | C17H18N4O7
